US04077982
5-Benzyloxy-2,2-dimethyl-1,3-dioxane
Using the procedure of Example 51, 2-benzyloxy-1,3-propanediol and acetone were reacted, using benzene as solvent, to give, after distillation using a short path column, 5-benzyloxy-2,2-dimethyl-1,3-dioxane. The nmr spectrum was consistent with the assigned structure.

reactant | 2-benzyloxy-1,3-propanediol | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | acetone | CC(=O)C | C3H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-Benzyloxy-2,2-dimethyl-1,3-dioxane | C(C1=CC=CC=C1)OC1COC(OC1)(C)C | C13H18O3
